US03957772
A process according to claim 1 wherein, in Step a, 3-amino-5-methylisoxazole is reacted with chloroacetylchloride to form 3-(chloroacetamido)-5-methylisoxazole.

reactant | 3-amino-5-methylisoxazole | NC1=NOC(=C1)C | C4H6N2O
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
product | 3-(chloroacetamido)-5-methylisoxazole | ClCC(=O)NC1=NOC(=C1)C | C6H7ClN2O2
